US07381719B2
Part F: 6-(2-Phenethyl-2,3,4,5-tetrahydro-1H-benzo[c]azepin-7-yloxy)nicotinamide
Mix 6-(2,3,4,5-tetrahydro-1H-benzo[c]azepin-7-yloxy)nicotinamide (Part E, 112.9 mg, 0.40 mmol), K2CO3 (110.1 mg, 0.80 mmol), and phenethyl bromide (82 uL 0.60 mmol) in DMF (2.0 mL). Heat at 70-80° C. overnight. Remove DMF azeotropically with xylenes. Purify by flash chromatography, eluting with 75:19:6 EtOAc/CH2Cl2/2.0 M NH3 in MeOH and then with 60:30:10 EtOAc/hexanes/2.0 M NH3 in MeOH. Purify by reverse phase chromatography, eluting with 0-99% 0.1% TFA/acetonitrile and 0.1% TFA/water to give the title compound (44.9 mg, 27% from Step D): MS ES+ 284.0 (M−H)+; HPLC [YMC-Pack Pro C-18 (150×4.6 mm, S-5 microm), 0.1% TFA/acetonitrile in 0.1% TFA/water at 1.0 mL/min, 5-95% over 19 min], tR=9.85 min, 100% purity; Anal. Calcd for C24H25N3O2.0.1H2O.0.1MeOH: C, 73.75; H, 6.57; N, 10.71. Found: C, 73.45; H, 6.62; N, 10.72.

reactant | 6-(2,3,4,5-tetrahydro-1H-benzo[c]azepin-7-yloxy)nicotinamide | 0.40 mmol, 112.9 mg | C1NCCCC2=C1C=CC(=C2)OC2=NC=C(C(=O)N)C=C2 | C16H17N3O2
reactant | K2CO3 | 0.80 mmol, 110.1 mg | C(=O)([O-])[O-].[K+].[K+]
reactant | phenethyl bromide | 0.60 mmol, 82 uL | C(CC1=CC=CC=C1)Br | C8H9Br
solvent | DMF | 2.0 mL | CN(C)C=O | C3H7NO
product | 6-(2-Phenethyl-2,3,4,5-tetrahydro-1H-benzo[c]azepin-7-yloxy)nicotinamide | 44.9 mg, 27% | C(CC1=CC=CC=C1)N1CC2=C(CCC1)C=C(C=C2)OC2=NC=C(C(=O)N)C=C2 | C24H25N3O2
